US06384080B1
A mixture of 2-[4-(methoxycarbonyl)cyclohexylamino]-5-nitro-N-(1,3-benzodioxol-5-ylmethyl)benzamide (269 mg), methanol (10 mL), tetrahydrofuran (10 mL) and 1N-sodium hydroxide solution (5 mL) was stirred for an hour at 60° C. The mixture was acidified with 1N-hydrochloric acid to pH 4 and the organic solvent was removed by evaporation. The aqueous layer was diluted with water and extracted with chloroform. The extract was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was triturated with diisopropyl ether to give 2-(4-carboxycyclohexylamino)-5-nitro-N-(1,3-benzodioxol-5-ylmethyl)benzamide as yellow powders (253 mg).

reactant | 2-[4-(methoxycarbonyl)cyclohexylamino]-5-nitro-N-(1,3-benzodioxol-5-ylmethyl)benzamide | 269 mg | COC(=O)C1CCC(CC1)NC1=C(C(=O)NCC2=CC3=C(OCO3)C=C2)C=C(C=C1)[N+](=O)[O-] | C23H25N3O7
reactant | methanol | 10 mL | CO | CH4O
reactant | sodium hydroxide | 5 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-(4-carboxycyclohexylamino)-5-nitro-N-(1,3-benzodioxol-5-ylmethyl)benzamide | 253 mg | C(=O)(O)C1CCC(CC1)NC1=C(C(=O)NCC2=CC3=C(OCO3)C=C2)C=C(C=C1)[N+](=O)[O-] | C22H23N3O7
